US05595995
(-)-(R)-1-(1-Adamantyl)-3-(4-pyridyl)butan-1-one
The method followed that described in Example 9 but using (+)-(R)-1-(4-pyridyl)ethanol (1.84 g, 15.0 mmol) in THF (80 ml), butyllithium (1.6M; 9.4 ml, 15.0 mmol) in hexane, p-toluenesulfonyl chloride (2.86 g, 15.0 mmol), diisopropylamine (6.31 ml, 45.0 mmol) in THF (120 ml), butyllithium (1.6M; 28.12 ml, 45.0 mmol) in hexane and 1-adamantyl methyl ketone (8.0 g, 45 mmol). Chromatography, on elution with petrol-ether-triethylamine 100:50:1 gave the title compound (722 mg, 17%), which crystallised from hexane, m.p. 48°-49° C.; [α]D -6.6° (c 1.0, MeOH). IR, NMR and MS data were the same as given in Example 14.

reactant | (+)-(R)-1-(4-pyridyl)ethanol | 15.0 mmol, 1.84 g | N1=CC=C(C=C1)[C@@H](C)O | C7H9NO
reactant | butyllithium | 15.0 mmol, 1.6M, 9.4 ml | C(CCC)[Li]
reactant | p-toluenesulfonyl chloride | 15.0 mmol, 2.86 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diisopropylamine | 45.0 mmol, 6.31 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 45.0 mmol, 1.6M, 28.12 ml | C(CCC)[Li]
reactant | 1-adamantyl methyl ketone | 45 mmol, 8.0 g | CC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | (-)-(R)-1-(1-Adamantyl)-3-(4-pyridyl)butan-1-one | 722 mg, 17% | C12(CC3CC(CC(C1)C3)C2)C(C[C@@H](C)C2=CC=NC=C2)=O | C19H25NO
